Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / cephalexin / Penicillins / ciprofloxacin / Sulfa 
(Sulfonamide Antibiotics)
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Left heart catheterization with DES to the RCA (___)

attach
 
Pertinent Results:
ADMISSION LABS:
=================
___ 01:07PM BLOOD WBC-10.3* RBC-3.78* Hgb-12.1 Hct-37.2 
MCV-98 MCH-32.0 MCHC-32.5 RDW-13.2 RDWSD-46.8* Plt ___
___ 09:10PM BLOOD ___ PTT-146.0* ___
___ 09:10PM BLOOD Glucose-125* UreaN-17 Creat-0.7 Na-142 
K-4.3 Cl-103 HCO3-25 AnGap-14
___ 09:10PM BLOOD proBNP-2364*
___ 09:10PM BLOOD cTropnT-0.23*
___ 09:10PM BLOOD Calcium-10.2 Phos-3.8 Mg-1.9

DISCHARGE LABS:
==================
___ 06:07AM BLOOD WBC-8.0 RBC-3.72* Hgb-11.9 Hct-37.7 
MCV-101* MCH-32.0 MCHC-31.6* RDW-13.5 RDWSD-50.4* Plt ___
___ 06:07AM BLOOD Plt ___
___ 06:07AM BLOOD Glucose-92 UreaN-17 Creat-0.7 Na-145 
K-4.6 Cl-105 HCO3-30 AnGap-10
___ 06:07AM BLOOD CK-MB-5 cTropnT-0.84*
___ 06:07AM BLOOD Calcium-9.2 Phos-2.8 Mg-2.1

IMAGING/PROCEDURES:
===================
TTE ___:
The visually estimated left ventricular ejection fraction is 
65%.
IMPRESSION: inferior posterior infarct. Suboptimal image 
quality.

L Heart Catheterization: ___
"Interventional Details: Percutaneous Coronary Intervention: 
Percutaneous coronary intervention (PCI) was performed on an ad 
hoc basis based on the coronary angiographic findings from the 
diagnostic portion of this procedure. Heparin boluses were given 
prophylactically for an ACT. >250s and the patient was loaded 
with TIcagrelor. A ___ Fr. AL 0.75 guide provided good support for 
the procedure. A short Terumo Runthrough wire crossed into the 
RPL easily. We Dottered the lesions with a 2.0*15 mm balloon and 
then pre-dilated
at 14 ATM for ___. We then delivered a 2.5*38 mm Onyx DES at 14 
ATM for ___ and then a 2.5*38 mm Onyx DES at 16 ATM for ___. We 
then post-dilated with a 3.0 mm NC balloon at 18 ATM for ___ x5. 
Final angiogram showed no residual, TIMi 3 flow and no visibel 
evidence of dissection or rupture.
Complications: There were no clinically significant 
complications.
Findings
• Normal left and right heart filling pressures.
• Single vessel coronary artery disease.
Recommendations
• Maximize medical therapy"
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
=====================
[] Medications STARTED: Aspirin 81mg, atorvastatin 80mg, 
lisinopril 2.5mg PO daily, metoprolol succinate 50mg PO daily, 
miralax 17g PO BID prn, ticagrelor 90mg PO BID
[] Medications STOPPED: simvastatin 10mg PO QPM

[] Cardiology:
- Placed on a small dose of lisinopril, consider uptitrating as 
patient's BP tolerates
- Consider a repeat TTE as an outpatient
- Please schedule cardiac rehab for patient

[] PCP:
- ___ was noted to be hypernatremic when NPO. This resolved with 
restarting her diet, however, if hypernatremia persists, she may 
benefit from a workup of secondary causes, namely diabetes 
insipidus.

# CODE STATUS: full (presumed)
# CONTACT: ___ ___

SUMMARY:
======================
Ms. ___ is a ___ year old female with history of
hyperlipidemia who initially presented to ___ with chest 
pressure and left shoulder pain, found to have an NSTEMI with 
elevated troponins and dynamic EKG changes. She was transferred 
to ___ for left heart catheterization, which demonstrated 
significant RCA stenosis and she is now s/p DES to RCA, started 
on aspirin/ticagrelor. On review of EKG, she was felt to be 
evolving into a STEMI prior to catheterization, and thus, she 
was kept an extra day for monitoring prior to discharge. She 
remained stable without chest pain and was discharged home.

ACTIVE ISSUES:
======================
#NSTEMI
#CAD s/p DES to RCA
Patient presenting with chest pressure and left shoulder pain
found to have an NSTEMI now s/p DES to RCA with resolution in 
her
symptoms. On re-review on her EKG there is concern that her
NSTEMI was resolving into a STEMI prior to catheterization, and 
thus, she was kept in house for an extra day for monitoring. Her 
post-catheterization hospitalization was largely unremarkable. 
TTE prior to catheterization demonstration evidence of inferior 
wall hypokinesis with normal EF. She may benefit from repeat TTE 
in the outpatient setting in the coming months. She was started 
DAPT with Aspirin and Ticagrelor, atorvastatin 80mg, metoprolol 
succinate XL 50mg and lisinopril 2.5mg PO daily. Rehab was 
consulted and patient was set up with home ___, a walker, and 
plan for cardiac rehab.

#Leukocytosis: She was noted to have leukoctyosis, which was 
felt to likely be stress related in the setting of ACS. She had 
no localizing signs of infection and her WBC improved prior to 
discharge.

#Hypernatremia: Patient noted to be hypernatremic in setting of 
NPO status. It is slightly atypical that she would become 
hypernatremic from a short period of time of fasting. It rapidly 
improved with restarting her diet, but she may benefit from a 
workup of possible underlying including diabetes insipidus if it 
recurs. More likely, this is due to prolonged fasting.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Istalol (timolol maleate) 0.5 % ophthalmic (eye) BID 
2. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO BID:PRN Constipation - Third 
Line 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 dose by 
mouth once a day Refills:*0 
6.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
7.  Istalol (timolol maleate) 0.5 % ophthalmic (eye) BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
====================
NSTEMI
Coronary artery disease

SECONDARY DIAGNOSES:
====================
Leukocytosis
Hypernatremia
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a heart attack  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were admitted to the hospital because you had 
chest/shoulder pain. You were found to have had a heart attack. 
Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries. This was opened 
by placing a tube called a stent in the artery. You were given 
medications to prevent future blockages.
- You were also started on a number of different medications to 
help improve your heart function

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- It is very important to take your aspirin and ticagrelor every 
day. These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack. If you stop these medications or miss ___ dose, you risk 
causing a blood clot forming in your heart stents and having 
another heart attack. Please do not stop taking either 
medication without taking to your heart doctor.  
  
Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team 

 
Followup Instructions:
___